US07829588B2
Synthesis of 2-(4-{4-[5-(4-tert-Butylphenyl)-4-methyl-4H-[1,2,4]-triazol-3-ylsulfanyl]-2-heptyloxybenzyl amino}phenyl)-N-hexylacetamide
A solution of (4-{4-[5-(4-tert-butylphenyl)-4-methyl-4H-[1,2,4]-triazol-3-ylsulfanyl]-2-heptyloxybenzyl amino}phenyl)acetic acid (0.3 g, 0.5 mmol), benzotriazol-1-ol (0.074 g, 0.55 mmol) in dimethylformamide (10 ml) is stirred for 20 minutes. n-Hexylamine (0.066 ml, 0.5 mmol) and (3-dimethylaminopropyl)ethylcarbodiimide (0.105 g, 0.55 mmol) are added and then the medium is stirred for 24 hours at room temperature. The addition of water causes the formation of a precipitate which is dried before being purified by chromatography on a silica column, eluted with a heptane/ethyl acetate (3/7) mixture. After evaporation of the solvents, 0.205 g (60%) of the expected compound is recovered.

reactant | (4-{4-[5-(4-tert-butylphenyl)-4-methyl-4H-[1,2,4]-triazol-3-ylsulfanyl]-2-heptyloxybenzyl amino}phenyl)acetic acid | 0.5 mmol, 0.3 g | C(C)(C)(C)C1=CC=C(C=C1)C=1N(C(=NN1)SC1=CC(=C(CNC2=CC=C(C=C2)CC(=O)O)C=C1)OCCCCCCC)C | C35H44N4O3S
reactant | benzotriazol-1-ol | 0.55 mmol, 0.074 g | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | n-Hexylamine | 0.5 mmol, 0.066 ml | C(CCCCC)N | C6H15N
reactant | (3-dimethylaminopropyl)ethylcarbodiimide | 0.55 mmol, 0.105 g | CN(CCCN=C=NCC)C | C8H17N3
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-(4-{4-[5-(4-tert-Butylphenyl)-4-methyl-4H-[1,2,4]-triazol-3-ylsulfanyl]-2-heptyloxybenzyl amino}phenyl)-N-hexylacetamide | C(C)(C)(C)C1=CC=C(C=C1)C=1N(C(=NN1)SC1=CC(=C(CNC2=CC=C(C=C2)CC(=O)NCCCCCC)C=C1)OCCCCCCC)C | C41H57N5O2S
